US05665674
a) Preparation of 3-fluorophthalic anhydride
15 g of 3-fluorophthalic acid are mixed with 16.6 g of acetic anhydride and refluxed for 3 hrs. After removal of unreacted acetic anhydride the remaining white solid is recrystalized from toluene.

reactant | 3-fluorophthalic acid | 15 g | FC1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H5FO4
reactant | acetic anhydride | 16.6 g | C(C)(=O)OC(C)=O | C4H6O3
product | 3-fluorophthalic anhydride | FC1=C2C(C(=O)OC2=O)=CC=C1 | C8H3FO3
